US07763657B2
Step 8: N-{4-[3-(4-tert-Butylbenzyl)ureidomethyl]-2-trifluoromethyl-6-vinylphenyl}methanesulfonamide
4-tert-Butyl-benzylamine (1.5 eq, 15.20 μl, 0.09 mmol), BOC2O (1.5 eq, 0.09 mmol, 20.70 μl), and DMAP (0.2 eq, 0.01 mmol, 1.34 mg) were added to methylene chloride. The reaction mixture was stirred for 5 hr. After confirming the synthesis of the 1-tert-butyl-4-isocyanatomethylbenzene with TLC, N-(4-Aminomethyl-2-trifluoromethyl-6-vinylphenyl)methanesulfonamide (1 eq, 0.06 mmol, 20.5 mg) and TEA (2 eq, 0.12 mmol, 16.72 μl) were added into the reaction mixture. The reaction mixture was stirred for 12 hr and purified with similar procedure to step 7 of example 8 to gave title compound (10.7 mg 36.88%).

reactant | 4-tert-Butyl-benzylamine | 0.09 mmol, 15.20 μl, 1.5 eq | C(C)(C)(C)C1=CC=C(CN)C=C1 | C11H17N
reactant | BOC2O | 0.09 mmol, 20.70 μl, 1.5 eq | O(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18O5
reactant | 1-tert-butyl-4-isocyanatomethylbenzene | C(C)(C)(C)C1=CC=C(C=C1)CN=C=O | C12H15NO
reactant | N-(4-Aminomethyl-2-trifluoromethyl-6-vinylphenyl)methanesulfonamide | 0.06 mmol, 20.5 mg, 1 eq | NCC1=CC(=C(C(=C1)C=C)NS(=O)(=O)C)C(F)(F)F | C11H13F3N2O2S
catalyst | DMAP | 0.01 mmol, 1.34 mg, 0.2 eq | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N-{4-[3-(4-tert-Butylbenzyl)ureidomethyl]-2-trifluoromethyl-6-vinylphenyl}methanesulfonamide | 10.7 mg, 36.88% | C(C)(C)(C)C1=CC=C(CNC(NCC2=CC(=C(C(=C2)C=C)NS(=O)(=O)C)C(F)(F)F)=O)C=C1 | C23H28F3N3O3S
